US08445501B2
4-(2-Cyclopropylmethoxy-5-fluoro-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ((R)-1-acetyl-piperidin-3-yl)-amide
Starting from 4-(2-cyclopropylmethoxy-5-fluoro-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (R)-piperidin-3-ylamide hydrochloride (example A167) and acetyl chloride the title compound is obtained as colorless solid.

reactant | 4-(2-cyclopropylmethoxy-5-fluoro-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (R)-piperidin-3-ylamide hydrochloride | Cl.N1C[C@@H](CCC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C(=C2)F)OC)OCC2CC2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 4-(2-Cyclopropylmethoxy-5-fluoro-4-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ((R)-1-acetyl-piperidin-3-yl)-amide | C(C)(=O)N1C[C@@H](CCC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C(=C2)F)OC)OCC2CC2 | C25H28FN5O4
